US07417169B2
Benzyl 2-benzyloxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
A mixture of benzyl 2-benzyloxy-4-trifluoromethanesulfonyloxybenzoate (0.555 g), bis(pinacolato)diboron (0.333 g), [bis(diphenylphosphino)ferrocene]dichloropalladium (0.0261 g), bis(diphenylphosphino)ferrocene (0.0198 g) and potassium acetate (0.35 g) in 1,4-dioxane (8 mL) was stirred at 100° C. for 12 hrs. The reaction mixture was passed through a pad of silica gel (eluent: ethyl acetate), and the filtrate was concentrated in vacuo. The residue was purified by medium-pressure silica gel column chromatography (eluent: n-hexane/ethyl acetate=4/1) to afford the title compound (0.243 g).

reactant | benzyl 2-benzyloxy-4-trifluoromethanesulfonyloxybenzoate | 0.555 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)OS(=O)(=O)C(F)(F)F | C22H17F3O6S
reactant | bis(pinacolato)diboron | 0.333 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.35 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
catalyst | bis(diphenylphosphino)ferrocene | 0.0198 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | Benzyl 2-benzyloxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.243 g | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C27H29BO5
